US09334245B2
ZD. (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid (S)-1-cyclohexyloxycarbonyloxy-ethyl ester (R4=H; R7=—CH(CH3)OC(O)O-cyclohexyl)
1,2,3-Triazole-4-carboxylic acid (45.2 mg, 400 μmol), DIPEA (209 μL, 1.2 mmol) and HCTU (165 mg, 400 μmol) were combined in DMF (0.2 mL) and stirred for 5 minutes at room temperature. This was then combined with (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid 1-cyclohexyloxycarbonyloxy-ethyl ester (193 mg, 400 μmol). The resulting mixture was stirred for 15 minutes and the reaction was quenched with AcOH. The products were purified and separated by preparative HPLC, then lyophilized to yield to yield compound ZC (20 mg; purity 95%), MS m/z [M+H]+ calc'd for C31H38N4O7, 579.27. found 579.6, and compound ZD (15 mg; purity 95%), MS m/z [M+H]+ calc'd for C31H38N4O7, 579.27. found 579.6.

reactant | 1,2,3-Triazole-4-carboxylic acid | 400 μmol, 45.2 mg | N1N=NC(=C1)C(=O)O | C3H3N3O2
reactant | DIPEA | 1.2 mmol, 209 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCTU | 400 μmol, 165 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid 1-cyclohexyloxycarbonyloxy-ethyl ester | 400 μmol, 193 mg | C1(CCCCC1)OC(=O)OC(C)OC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)(C)CO)=O | C28H37NO6
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid (S)-1-cyclohexyloxycarbonyloxy-ethyl ester | C1(CCCCC1)OC(=O)O[C@@H](C)OC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1NN=NC1)(C)CO)=O | C31H38N4O7
